US07598423B2
Synthesis of 3-[(4-{[(4-acetyl-3-hydroxy-2-methyl-phenyl)-methyl-amino]-methyl}-phenyl)-hydroxy-methyl]-benzonitrile
To 3-({4-[(4-acetyl-3-hydroxy-2-methyl-phenylamino)-methyl]-phenyl}-hydroxy-methyl)-benzonitrile (138 mg, 0.36 mmol) in acetonitrile (14 mL) are added 37% aqueous solution of formaldehyde (140 μL) and NaCNBH3 (69 mg, 1.1 mmol). The pH of the mixture is adjusted to approximately 2 by dropwise addition of 1 N HCl over a 15 min period. The reaction was complete after 1.5 h, during which time the pH of the reaction mixture is monitored every 15 min using pH paper and kept at around 2 by addition of 1N HCl. The reaction mixture is quenched into H2O and basified with saturated aqueous NaHCO3. The mixture is extracted with EtOAc (3×), washed with brine, dried over Na2SO4, and concentrated. Obtained is the title compound as a yellow oil (135 mg, 94%). LC-MS (m/e): 399 (M−1).

reactant | 3-({4-[(4-acetyl-3-hydroxy-2-methyl-phenylamino)-methyl]-phenyl}-hydroxy-methyl)-benzonitrile | 0.36 mmol, 138 mg | C(C)(=O)C1=C(C(=C(C=C1)NCC1=CC=C(C=C1)C(C=1C=C(C#N)C=CC1)O)C)O | C24H22N2O3
reactant | formaldehyde | 140 μL | C=O | CH2O
reactant | NaCNBH3 | 1.1 mmol, 69 mg | [BH3-]C#N.[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | HCl | 1N | Cl | ClH
solvent | acetonitrile | 14 mL | C(C)#N | C2H3N
product | 3-[(4-{[(4-acetyl-3-hydroxy-2-methyl-phenyl)-methyl-amino]-methyl}-phenyl)-hydroxy-methyl]-benzonitrile | 135 mg, 94% | C(C)(=O)C1=C(C(=C(C=C1)N(C)CC1=CC=C(C=C1)C(C=1C=C(C#N)C=CC1)O)C)O | C25H24N2O3
